US07851626B2
(4S,5R)-2-(4-tert-Butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride
In a manner analogous to the method described in example 3, (4S,5R)-2-(4-tert-butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-1H-imidazole was reacted with phosgene in the presence of triethylamine to give the title compound.

reactant | (4S,5R)-2-(4-tert-butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-1H-imidazole | C(C)(C)(C)C1=CC(=C(C=C1)C=1N[C@@H]([C@](N1)(C)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)OCC | C28H30Cl2N2O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (4S,5R)-2-(4-tert-Butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride | C(C)(C)(C)C1=CC(=C(C=C1)C=1N([C@@H]([C@](N1)(C)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C(=O)Cl)OCC | C29H29Cl3N2O2
